US07112599B2
2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [5-(1-hydroxy-ethyl)-oxazol-2-yl]-amide
To a solution of 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid (5-acetyl-oxazol-2-yl)-amide (130 mg, 0.34 mmol) in a mixture of MeOH (5 ml) and THF (5 mL) was added NaBH4 (130 mg, 3.9 mmol) at room temperature. After stirring for 10 min, the mixture was concentrated to a small volume, quenched with water and extracted with methylene chloride. The organic layer was separated, dried and concentrated to give 131 mg of the title compound as a colorless oil. LC-MS, RT=1.7 min, M+1=382.2, M−1=380.2.

reactant | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid (5-acetyl-oxazol-2-yl)-amide | 0.34 mmol, 130 mg | C(C)(=O)C1=CN=C(O1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O | C18H19F2N3O4
reactant | NaBH4 | 3.9 mmol, 130 mg | [BH4-].[Na+]
solvent | MeOH | 5 ml | CO | CH4O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [5-(1-hydroxy-ethyl)-oxazol-2-yl]-amide | 131 mg | OC(C)C1=CN=C(O1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O | C18H21F2N3O4
